US08466114B2
To a stirred solution of 1-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-2,2,2-trifluoro-ethanone (6.5 g, 28.1 mmol) in dichloromethane (45 mL) was added 5-bromo-2-chlorobenzoyl chloride (8.54 g, 33.7 mmol) in dichloromethane (35 mL) and AlCl3 (5.61 g, 42.2 mmol) at 0° C. After 2 h, the reaction mixture was brought to room temperature and stirred overnight. The reaction was quenched by pouring over crushed ice and extracted with dichloromethane (2×50 mL). The organic layer was washed with aq. NaHCO3 (30 mL), H2O (20 mL), and the solvent evaporated to get the crude product which was purified by silica gel column chromatography to give 1-[6-(5-bromo-2-chloro-benzoyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone (10.0 g).

reactant | 1-(2,3-dihydro-benzo[1,4]oxazin-4-yl)-2,2,2-trifluoro-ethanone | 28.1 mmol, 6.5 g | O1CCN(C2=C1C=CC=C2)C(C(F)(F)F)=O | C10H8F3NO2
reactant | 5-bromo-2-chlorobenzoyl chloride | 33.7 mmol, 8.54 g | BrC=1C=CC(=C(C(=O)Cl)C1)Cl | C7H3BrCl2O
reactant | AlCl3 | 42.2 mmol, 5.61 g | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | dichloromethane | 45 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 35 mL | ClCCl | CH2Cl2
product | 1-[6-(5-bromo-2-chloro-benzoyl)-2,3-dihydro-benzo[1,4]oxazin-4-yl]-2,2,2-trifluoro-ethanone | 10.0 g | BrC=1C=CC(=C(C(=O)C=2C=CC3=C(N(CCO3)C(C(F)(F)F)=O)C2)C1)Cl | C17H10BrClF3NO3
